US06579872B1
Using an analogous procedure to that described in the first paragraph of Example 25, 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid was reacted with N-(3-amino-4-methylphenyl)-3-[N-(2-methoxyethyl)-N-methylamino]benzamide to give N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamide in 59% yield; NMR Spectrum: (DMSOd6) 1.39 (s, 9H), 2.08 (m, 2H), 2.18 (s, 3H), 2.96 (s, 3H), 3.22 (s, 3H),3.25 (m, 2H), 3.52 (m, 6H), 5.07 (s, 1H), 6.87 (d, 1H), 7.2 (m, 5H), 7.43 (t, 1H), 7.55 (m, 3H), 7.79 (s, 1H), 9.86 (s, 1H), 10.06 (s, 1H); Mass Spectrum: M−C3H7+ 547.

reactant | 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)O)C=CC1 | C16H21NO5
reactant | N-(3-amino-4-methylphenyl)-3-[N-(2-methoxyethyl)-N-methylamino]benzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N(C)CCOC)=O | C18H23N3O2
product | N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamide | 59% yield | COCCN(C)C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)OC2CN(CC2)C(=O)OC(C)(C)C)=O)C)C=CC1 | C34H42N4O6
